US07875639B2
N-1,3-thiazol-2-yladamantane-1-carboxamide
To a solution of 2-aminothiazole (6.1 g, 61 mmol) in 250 mL. of THF at 0° C. was added a solution of adamantane-1-carbonyl chloride (11 g, 55 mmol) in 25 mL of THF, followed by triethylamine (17 ml, 0.12 mol). The mixture was warmed to 65° C., stirred for 4 hours, and then allowed to cool to ambient temperature. The mixture was diluted with ethyl acetate and washed twice with water and brine. The aqueous washings were combined and extracted with ethyl acetate. The combined organic extracts were dried over magnesium sulfate, filtered and concentrated under reduced pressure. Purification by column chromatography (SiO2, 20-40% ethyl acetate/hexanes gradient) afforded 11 g (78%) of the title compound, 1H NMR (CDCl3, 300 MHz) δ ppm 1.68-1.85 (m, 6 H), 1.97 (d, J=3.1 Hz, 6 H), 2.12 (s, 3 H), 6.96 (d, J=3.7 Hz, 1 H), 7.44 (d, J=3.4 Hz, 1 H), 8.92 (s, 1H); MS (DCI/NH3) m/z 263 (M+H)+.

reactant | 2-aminothiazole | 61 mmol, 6.1 g | NC=1SC=CN1 | C3H4N2S
reactant | adamantane-1-carbonyl chloride | 55 mmol, 11 g | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | triethylamine | 0.12 mol, 17 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-1,3-thiazol-2-yladamantane-1-carboxamide | 11 g, 78% | S1C(=NC=C1)NC(=O)C12CC3CC(CC(C1)C3)C2 | C14H18N2OS
